US08309718B2
3-(cyanomethyl)-3-[4-(2-{[4-(2-pyrrolidin-1-ylethoxy)phenyl]amino}pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclobutanecarbonitrile
The cis- and trans-isomers of the titled compound were prepared as a racemic mixture according to the procedure described in example 306, using 3-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-3-(cyanomethyl)-cyclobutanecarbonitrile and 1-[2-(4-nitrophenoxy)ethyl]pyrrolidine as starting materials. First isomer retention time 1.055 min, LCMS (M+H) 469.4. Second peak retention time 1.072 min, LCMS (M+H) 469.4.

reactant | 3-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-3-(cyanomethyl)-cyclobutanecarbonitrile | ClC1=NC=CC(=N1)C=1C=NN(C1)C1(CC(C1)C#N)CC#N | C14H11ClN6
reactant | 1-[2-(4-nitrophenoxy)ethyl]pyrrolidine | [N+](=O)([O-])C1=CC=C(OCCN2CCCC2)C=C1 | C12H16N2O3
product | 3-(cyanomethyl)-3-[4-(2-{[4-(2-pyrrolidin-1-ylethoxy)phenyl]amino}pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclobutanecarbonitrile | C(#N)CC1(CC(C1)C#N)N1N=CC(=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)OCCN1CCCC1 | C26H28N8O
